US06977262B2
5-Cyano-4-(2-cyanophenyl)-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine 2 hydrochloride
The title compound was prepared from ethyl nipecotate, 2-cyanobenzaldehyde and 3-aminopyrazole in the same manner as in Examples 1001 and 1002.

reactant | ethyl nipecotate | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 2-cyanobenzaldehyde | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 5-Cyano-4-(2-cyanophenyl)-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine | C(#N)C=1C(C=2C(NC1C1CCNCC1)=NNC2)C2=C(C=CC=C2)C#N | C19H18N6
